US07199124B2
[4-(3-methylphenyl)-5-(4-pyrimidinyl)-1,3-thiazol-2-yl]amine
To a solution (70 mL) of 1-(3-methylphenyl)-2-(4-pyrimidinyl)ethenol (3.0 g, 14 mmol) and sodium acetate (2.32 g, 28.26 mmol) in acetic acid was added dropwise a solution (70 mL) of bromine (0.72 mL, 14 mmol) in acetic acid at room temperature over 30 min. The mixture was stirred at room temperature for 2 hrs. Acetic acid was evaporated under reduced pressure, and aqueous sodium hydrogen carbonate solution was added to the residue. The mixture was extracted with ethyl acetate and the extract was dried and concentrated. The residue was dissolved in N,N-dimethylformamide (15 mL), and thiourea (1.1 g, 16 mmol) was added to the solution. The reaction mixture was stirred at room temperature for 14 hrs. Aqueous sodium hydrogen carbonate solution was added, and the precipitated solids were collected by filtration. The solids were washed with water, dried and subjected to recrystallization from ethyl acetate to give the title compound (3.4 g, yield 89%).

reactant | 1-(3-methylphenyl)-2-(4-pyrimidinyl)ethenol | 14 mmol, 70 mL, 3.0 g | CC=1C=C(C=CC1)C(=CC1=NC=NC=C1)O | C13H12N2O
reactant | sodium acetate | 28.26 mmol, 2.32 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 14 mmol, 70 mL | BrBr | Br2
reactant | thiourea | 16 mmol, 1.1 g | NC(=S)N | CH4N2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [4-(3-methylphenyl)-5-(4-pyrimidinyl)-1,3-thiazol-2-yl]amine | 3.4 g, yield 89% | CC=1C=C(C=CC1)C=1N=C(SC1C1=NC=NC=C1)N | C14H12N4S
